US08217035B2
2-(5-Nitropyridin-2-yloxy)-N,N-dimethylethanamine (295 mg, 1.40 mmol) was dissolved in 5 mL of methanol and placed under a nitrogen atmosphere. A catalytic amount of 10% palladium on carbon was added and a hydrogen balloon was connected to the reaction flask. The flask was flushed five times with hydrogen and stirred at room temperature under hydrogen atmosphere for 16 hours. The solid was filtered and washed with methanol. The filtrate was evaporated under reduced pressure yielding 6-[2-(dimethylamino)ethoxy]pyridin-3-amine as a brown oil (250 mg, 99%). LC/MS (m/z): 182.1 (MH+), Rt 0.36 minutes.

reactant | 2-(5-Nitropyridin-2-yloxy)-N,N-dimethylethanamine | 1.40 mmol, 295 mg | [N+](=O)([O-])C=1C=CC(=NC1)OCCN(C)C | C9H13N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 6-[2-(dimethylamino)ethoxy]pyridin-3-amine | 250 mg, 99% | CN(CCOC1=CC=C(C=N1)N)C | C9H15N3O
